US06613786B2
Br2 (0.665 mL, 12.9 mmol) was added dropwise to a solution of (5-methylthiophen-2-yl)-oxo-acetic acid (1.05 g, 6.15 mmol) and sodium acetate (757 mg, 9.23 mmol) in 10 ml of glacial acetic acid and stirred at room temperature for 6.5 hours. The reaction mixture was poured into 150 ml water and extracted with diethyl ether (2×75 ml). The combined diethyl ether layers were extracted with aqueous Na2S2O3, the organic layer was then dried over sodium sulfate, and concentrated under vacuum to provide crude (4-bromo-5-methylthiophen-2-yl)-oxo-acetic acid (1.40 g, 91%). 1H NMR (300 MHz, CDCl3) δ8.35 (1H, s), 2.54 (3H, s).

reactant | Br2 | 12.9 mmol, 0.665 mL | BrBr | Br2
reactant | (5-methylthiophen-2-yl)-oxo-acetic acid | 6.15 mmol, 1.05 g | CC1=CC=C(S1)C(C(=O)O)=O | C7H6O3S
reactant | sodium acetate | 9.23 mmol, 757 mg | C(C)(=O)[O-].[Na+]
reactant | water | 150 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (4-bromo-5-methylthiophen-2-yl)-oxo-acetic acid | 1.40 g, 91% | BrC=1C=C(SC1C)C(C(=O)O)=O | C7H5BrO3S
